US04665017
With 100 ml of toluene was mixed 18.1 g of 4-methyl-1-phenylthiosemicarbazide as prepared in Synthesis Example 1, and 18.1 g of β-carboethoxypropionyl chloride was added thereto. The mixture was heated at 80° C. for 3 hours and then cooled to obtain crystals of 4-methyl-1-phenyl-1-(β-carboethoxypropionyl)thiosemicarbazide. Ten grams of the product was suspended in 70 ml of ethanol, followed by heat refluxing, and a small amount of sodium ethoxide was added to the reaction mixture. The reaction mixture once became uniform, and then crystals precipitated. After cooling, the thus formed crystals were removed by filtration and dried to obtain 16.0 g (55%) of Compound No. 64. Melting point: 162°-163° C.

reactant | 4-methyl-1-phenylthiosemicarbazide | 18.1 g | CNC(NNC1=CC=CC=C1)=S | C8H11N3S
reactant | β-carboethoxypropionyl chloride | 18.1 g | C(=O)(OCC)CCC(=O)Cl | C6H9ClO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-1-phenyl-1-(β-carboethoxypropionyl)thiosemicarbazide | CNC(NN(C(CCC(=O)OCC)=O)C1=CC=CC=C1)=S | C14H19N3O3S
